US05534518
A stirred solution of 25.0 grams (0.106 mole) of 2-bromo-4-chloro-5-formylphenol in 106 mL (0.106 mole) of aqueous 1N sodium hydroxide was warmed to about 50° C., and 150 mL (0.133 mole) of aqueous 3% hydrogen peroxide was added dropwise. Upon completion of addition, the reaction mixture was allowed to cool to ambient temperature as it stirred for about 18 hours. After this time, the reaction mixture was made acidic with aqueous 6N hydrochloric acid. The mixture was then filtered to collect a solid. The solid was washed with water and dried under vacuum, yielding 21.2 grams of 2-bromo-4-chlorocatechol. The NMR spectrum was consistent with the proposed structure.

reactant | 2-bromo-4-chloro-5-formylphenol | 0.106 mole, 25.0 grams | BrC1=C(C=C(C(=C1)Cl)C=O)O | C7H4BrClO2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrochloric acid | 6N | Cl | ClH
product | 2-bromo-4-chlorocatechol | 21.2 grams | BrC1(C(O)C=CC(=C1)Cl)O | C6H6BrClO2
